US07317037B2
C. 5-(7′-fluoro-2′-oxo-1′,2′-dihydrospiro[cyclopropane-1,3′-indol]-5′-yl)-1-methyl-1H-pyrrole-2-carbonitrile
5′-Bromo-7′-fluorospiro[cyclopropane-1,3′-indol]-2′(1′H)-one (0.60 g, 2.3 mmol), 1-methyl-5-cyano-2-pyrroleboronic acid (0.63 g, 4.2 mmol), KF (0.44 g, 7.6 mmol), and Pd2(dba)3 monochloroform adduct (60 mg, 0.058 mmol) were added to a vial and then purged with nitrogen. THF (5.5 mL) was added and the mixture was purged with nitrogen for 5 min. A solution of tri-t-butylphosphine (10% wt in hexanes) (0.342 mL, 0.115 mmol) was added via syringe and the mixture was stirred vigorously at 25° C. for 2.5 h. The mixture was diluted with 100 mL of EtOAc and filtered through a plug of silica gel and concentrated. Purification by flash chromatography (25% acetone/hexane) afforded the title compound (0.53 g, 83%) as a white solid. MP 228-231° C.

reactant | 5′-Bromo-7′-fluorospiro[cyclopropane-1,3′-indol]-2′(1′H)-one | 2.3 mmol, 0.60 g | BrC=1C=C2C3(C(NC2=C(C1)F)=O)CC3 | C10H7BrFNO
reactant | 1-methyl-5-cyano-2-pyrroleboronic acid | 4.2 mmol, 0.63 g | CN1C(=CC=C1C#N)B(O)O | C6H7BN2O2
reactant | KF | 7.6 mmol, 0.44 g | [F-].[K+]
product | 5-(7′-fluoro-2′-oxo-1′,2′-dihydrospiro[cyclopropane-1,3′-indol]-5′-yl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.53 g, 83% | FC=1C=C(C=C2C3(C(NC12)=O)CC3)C3=CC=C(N3C)C#N | C16H12FN3O
